US06172057B2
2-Methyl-3-phenyl-2-(thiophene-2-sulfonyl)-propionic acid ethyl ester was prepared according to the general method as outlined in example 9. Starting from 2-(thiophen-2-sulfonyl)-propionic acid ethyl ester (3.0g, 12 mmol) and benzyl bromide (2.48g, 15 mmol). Yield 5.2 g (%); tan oil; MS 339.1 (M+H).

reactant | 2-(thiophen-2-sulfonyl)-propionic acid ethyl ester | 12 mmol, 3.0g | C(C)OC(C(C)S(=O)(=O)C=1SC=CC1)=O | C9H12O4S2
reactant | benzyl bromide | 15 mmol, 2.48g | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-Methyl-3-phenyl-2-(thiophene-2-sulfonyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=CC=C1)(S(=O)(=O)C=1SC=CC1)C)=O | C16H18O4S2
